US04929641
Step 1: N-(3-Acetylthio-2-benzylpropionyl)-O-benzyl-L-tyrosine Methyl Ester (Isomers A and B):
React O-benzyl-L-tyrosine methyl ester hydrochloride (2.77 g) and 3-acetylthio-2-benzylpropionic acid (2.05 g) in a manner similar to that described in Example 1, Step 1 to give a yellow-orange oil. Chromatograph this oil on a column of silica gel (2.5L) and elute with CH2Cl2 : ethyl acetate 98:2 to give Isomer A, a white solid (0.84 g) m.p. 108°-109°; [α]D26 =-39.8° (MeOH); overlap Isomer A and Isomer B (0.80 g); and Isomer B, white solid (0.45 g), m.p. 92°-93°, [α]D26 =+19.2° (MeOH).

reactant | O-benzyl-L-tyrosine methyl ester hydrochloride | 2.77 g | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O
reactant | 3-acetylthio-2-benzylpropionic acid | 2.05 g | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
solvent | MeOH | CO | CH4O
product | N-(3-Acetylthio-2-benzylpropionyl)-O-benzyl-L-tyrosine Methyl Ester | COC([C@@H](NC(C(CSC(C)=O)CC1=CC=CC=C1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C29H31NO5S
